US06440929B1
A slurry of 58.6 g (0.355 mol) of 2-(4-aminophenyl)propionic acid and 500 ml of methylene chloride was treated with 90.11 ml (77.13 g. 0-710 mol) of trimethylsilyl chloride and was heated to reflux for 120 min. The reaction mixture was cooled to 0° C. and treated with 184.44 ml (107.77 g, 1.065 mol) of triethylamine. After stirring for 5 minutes, this mixture was treated with a solution of 70.45 g (0.355 mol) of O-acetylsalicyloyl chloride and 150 ml of methylene chloride. The reaction mixture was warmed to 25° C. and stirred for 64 hr. The volatiles were removed in vacuo. The residue was stirred in 2N aqueous sodium hydroxide for one hour and acidified with 2 M aqueous sulfuric acid. The solid was recrystallized twice from ethanol/water to give a tan solid. Isolation by filtration afforded 53.05 g of (52% yield) of 2-(4-(N-salicyloyl)aminophenyl)propionic acid.

reactant | 2-(4-aminophenyl)propionic acid | 0.355 mol, 58.6 g | NC1=CC=C(C=C1)C(C(=O)O)C | C9H11NO2
reactant | trimethylsilyl chloride | 0-710 mol, 90.11 ml, 77.13 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 1.065 mol, 184.44 ml, 107.77 g | C(C)N(CC)CC | C6H15N
reactant | O-acetylsalicyloyl chloride | 0.355 mol, 70.45 g | CC(=O)OC1=CC=CC=C1C(=O)Cl | C9H7ClO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-(N-salicyloyl)aminophenyl)propionic acid | 53.05 g, 52% yield | C(C=1C(O)=CC=CC1)(=O)NC1=CC=C(C=C1)C(C(=O)O)C | C16H15NO4
